US04183852
Preparation of 3β-(methoxyethoxymethoxy)-5-cholenic acid methyl ester
A 100 ml round bottom flask, equipped with a mercury relief valve and magnetic stirrer, was flame-dried and flushed with nitrogen. The flask was charged with 2.57 mmoles (1.0 g) of 3β-hydroxy-5-cholenic acid methyl ester, 3.86 mmoles (0.50 g) of diisopropylethylamine, 3.86 mmoles (0.48 g) of methoxyethoxymethyl chloride and 10 ml of CH2Cl2. The reaction mixture was stirred for 48 hours at room temperature. After stirring, the reaction mixture was diluted with 25 ml of pentane, washed with 20 ml of 10% acetic acid and 20 ml of saturated sodium bicarbonate. The combined aqueous layers were extracted with two twenty ml portions of ether and the organic layers separated and dried with MgSO4. Concentration of the ether solution left an oily crude product (96%) which was isolated as a pure white solid (84%) by dissolving the oil in pentane, cooling to -78° C., and filtering. The pure solid had mp 44°-46° C.

reactant | 3β-hydroxy-5-cholenic acid methyl ester | 2.57 mmoles, 1.0 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)=O | C25H40O3
reactant | diisopropylethylamine | 3.86 mmoles, 0.50 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxyethoxymethyl chloride | 3.86 mmoles, 0.48 g | COCCOCCl | C4H9ClO2
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pentane | 25 ml | CCCCC | C5H12
product | 3β-(methoxyethoxymethoxy)-5-cholenic acid methyl ester | 84% | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCOCCOC)=O | C29H48O5
